US09024027B2
Step 3: Preparation of tert-butyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (179)
To a solution of tert-butyl 2-(5-amino-1,3-dioxoisoindolin-2-yl)acetate (14 g, 50.7 mmol) in THF (100 ml), pyridine (8.20 ml, 101 mmol) was added followed by methanesulfonyl chloride (7.74 ml, 101 mmol), and the resulting mixture was heated to reflux for 5 hours. The volatiles were removed under vacuum, the residue was dissolved in DCM (200 ml) and washed with 0.2M HCl (3×50 ml) and brine; the organic phase was dried over Na2SO4 and evaporated to dryness. The resulting solid was triturated with ethyl acetate, and the title compound was recovered by filtration (12.5 g). The mother liquors were evaporated in vacuo and purified by silica gel chromatography (DCM:AcOEt 10:1), affording additional 2.6 g of the title compound. These two batches were dissolved in DCM, combined, and the solvent was evaporated in vacuo to afford tert-butyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (15.1 g, 42.6 mmol, 84% yield, MS/ESI+ 354.9 [MH]+).

reactant | tert-butyl 2-(5-amino-1,3-dioxoisoindolin-2-yl)acetate | 50.7 mmol, 14 g | NC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O | C14H16N2O4
reactant | pyridine | 101 mmol, 8.20 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 101 mmol, 7.74 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | tert-butyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 2.6 g | CS(=O)(=O)NC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O | C15H18N2O6S
